US05952331
2-Amino-6-chloro-4-(naphth-1-yl)-pyrimidine (170 mg) was dissolved in 10 mL of methyl alcohol at 0° C. 10% Palladium on activated carbon (70 mg) and approximately 1 mL of 20% sodium hydroxide were added to the solution, and the mixture was hydrogenated (1 atmosphere) for 1 hour to give solid 2-amino-4-(naphth-1-yl)-pyrimidine (80 mg). Treatment of the solid with hydrochloric acid/ethyl alcohol yielded 2-amino-4-(naphth-1-yl)-pyrimidine hydrochloride (25 mg), m.p. 181-184° C.

reactant | 2-Amino-6-chloro-4-(naphth-1-yl)-pyrimidine | 170 mg | NC1=NC(=CC(=N1)C1=CC=CC2=CC=CC=C12)Cl | C14H10ClN3
reactant | sodium hydroxide | approximately 1 mL | [OH-].[Na+]
solvent | methyl alcohol | 10 mL | CO | CH4O
catalyst | Palladium on activated carbon | 70 mg | [Pd] | Pd
product | 2-amino-4-(naphth-1-yl)-pyrimidine | 80 mg | NC1=NC=CC(=N1)C1=CC=CC2=CC=CC=C12 | C14H11N3
